US05648370
a) 3-[2-Phenylethoxy]propanoic acid
Pyridinium dichromate (100 g) was added to a solution of 3-[2-phenylethoxy]-propanol (13.6 g) (prepared from 2-phenylmethyl-1,3-dioxane following the method described in Can. J. Chem., 1974, 52, 888) in DMF (400 ml). The whole was rapidly stirred for 6 hours at which point water was added. This was then extracted with ether (×3). The combined ethereal layers were extracted with 10% aqueous sodium hydroxide solution (500 ml). The basic solution was made acidic pH 1-2 with concentrated hydrochloric acid and extracted with ether. These ethereal extracts were then combined, washed with brine, dried (MgSO4) and evaporated under reduced pressure to yield the subtitled compound (7.6 g).

reactant | Pyridinium dichromate | 100 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | 3-[2-phenylethoxy]-propanol | 13.6 g | C1(=CC=CC=C1)CCOCCCO | C11H16O2
reactant | 2-phenylmethyl-1,3-dioxane | C1(=CC=CC=C1)CC1OCCCO1 | C11H14O2
reactant | water | O | H2O
solvent | DMF | 400 ml | CN(C)C=O | C3H7NO
product | 3-[2-Phenylethoxy]propanoic acid | 7.6 g | C1(=CC=CC=C1)CCOCCC(=O)O | C11H14O3
